OpenCircuit factory test: FMMT624TA supported-region upper-current boundary
* OpenCircuit Model Factory v0.1.0 bulk adapter
* Original work generated from public factual specifications.
* This model is not copied or adapted from any vendor SPICE model.
* Source: https://jlcpcb.com/api/file/downloadByFileSystemAccessId/8588880655975387136
* Revision: DS33110 Rev. 5 - 2, December 2012
.model OC_DIODES-INCORPORATED_FMMT624TA NPN(IS=1.0000000000e-14 BF=4.5000000000e2 VAF=1.0000000000e2 IKF=1.0000000000e3 RB=1.0000000000e1 RC=1.0000000000e-1 RE=5.0000000000e-2 CJE=1.0000000000e-12 CJC=1.0000000000e-12 TF=1.0000000000e-9)

.temp 25
IC 0 c DC 1.0000000000e0
IB 0 b DC 1.0000000000e-2
Q1 c b 0 OC_DIODES-INCORPORATED_FMMT624TA
.op
.end
